US09290465B2
A solution of 3-(4-cyano-phenyl)-isoxazole-4-carboxylic acid (4.7 g, 22 mmol) in tert-butanol was treated with diphenylphosphoryl azide (5.1 mL, 24 mmol) and triethylamine (3.33 mL, 24 mmol). The solution was heated to 80° C. for 14 h and then all volatiles were removed under reduced pressure to give [3-(4-cyano-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (2.1 g, 33%).

reactant | 3-(4-cyano-phenyl)-isoxazole-4-carboxylic acid | 22 mmol, 4.7 g | C(#N)C1=CC=C(C=C1)C1=NOC=C1C(=O)O | C11H6N2O3
reactant | diphenylphosphoryl azide | 24 mmol, 5.1 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 24 mmol, 3.33 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
product | [3-(4-cyano-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 2.1 g, 33% | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)C#N)=O | C15H15N3O3
